US04638000
A mixture of 0.4 g of tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, 1 g of ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorobutyrate, 0.2 g of triethylamine, 0.9 g of potassium iodide and 50 ml of acetonitrile is heated under reflux for 2 days. After cooling, the reaction solution is concentrated under reduced pressure, and the residue is purified by silica-gel column chromatography (hexane:ethyl acetate=2:1) to give 0.15 g of tert-butyl 3(R)-[3-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylpropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate and 0.25 g of tert-butyl 3(R)-[3-(1-benzyloxycarbonyl-4-piperidyl)-1(S)-ethoxycarbonylpropyl]amino-4-oxy-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as a colorless oily material, respectively.

reactant | tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.4 g | N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O3S
reactant | ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-chlorobutyrate | 1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C(=O)OCC)Cl | C19H26ClNO4
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 0.9 g | [I-].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | tert-butyl 3(R)-[3-(1-benzyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylpropyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.15 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CC[C@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C34H45N3O7S
